US06329402B1
1-Isopropylindole-4-carbaldehyde
Isopropyl 1-isopropylindole-4-carboxylate (2.6 g) was reduced by diisobutyl aluminum hydride, followed by oxidation with manganese dioxide, whereby the title compound was obtained.

reactant | Isopropyl 1-isopropylindole-4-carboxylate | 2.6 g | C(C)(C)N1C=CC=2C(=CC=CC12)C(=O)OC(C)C | C15H19NO2
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 1-Isopropylindole-4-carbaldehyde | C(C)(C)N1C=CC=2C(=CC=CC12)C=O | C12H13NO
